V:Vdd nr gnd V=10
V:Vgs ng gnd V=$Vgs
R:Rload nr nd R=$Rload
MOSFET:Q1 gnd ng nd gnd @NMOS
.dc
  .sweep param="Rload" type="lin" start=2000 stop=100 points=5
  .sweep param="Vgs" type="lin" start=2 stop=4 points=100
